US07781591B2
A mixture of 5-iodo-4[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile (100 mg, 0.27 mmol), 2-[4-(2-methoxyethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (98 mg, 0.35 mmol), and tetrakis(triphenylphosphine)palladium(0) (16 mg, 0.014 mmol) in DME (6 mL) and saturated aqueous NaHCO3 (4 mL) was heated at 95° C. for 3 h, cooled to room temperature, and treated with water. The precipitate was filtered, washed with water, dried in vacuo, and purified by flash column chromatography (MeOH/CH2Cl2, 2% to 4%) to provide 75 mg (70%) of 5-[4-(2-methoxyethoxy)phenyl]-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile as a tan solid. HPLC retention time: 8.2 min.(g); MS: 399.3 (M+H); melting range: 208-210° C.; and HRMS: 399.18056.

reactant | 5-iodo-4[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 0.27 mmol, 100 mg | IC=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=CC1)C | C15H11IN4
reactant | 2-[4-(2-methoxyethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.35 mmol, 98 mg | COCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H23BO4
reactant | water | O | H2O
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | NaHCO3 | 4 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[4-(2-methoxyethoxy)phenyl]-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 75 mg, 70% | COCCOC1=CC=C(C=C1)C=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=CC1)C | C24H22N4O2
